US08754226B2
(S)-1-(1-(5-chloropyrazin-2-yl)piperidin-4-yl)-3-(2-fluoro-4-(methylsulfonyl)phenylamino)pyrrolidin-2-one
To a solution of (S)-3-(2-fluoro-4-(methylsulfonyl)phenylamino)-1-(piperidin-4-yl)pyrrolidin-2-one (Preparation E; 3 g, 8.44 mmol) and DIEA (7.35 mL, 42.2 mmol) in DMF (30 mL) was added 2,5-dichloropyrazine (2.51 g, 16.9 mmol). This mixture was degassed with nitrogen for 30 minutes then stirred at 100° C. for 4 hours under nitrogen. The mixture was poured into brine (500 mL) and extracted into ethyl acetate (3×100 mL). The combined organic layers were dried over MgSO4, filtered and concentrated in vacuo to give an oil. Diethyl ether (200 mL) was added and a precipitate formed overnight. The ether was decanted and the solid was triturated using ethanol (100 mL) at reflux with stirring for 5 minutes. The suspension was filtered and the solid was washed using ethanol to give a solid crystal. This solid was dried over the weekend under high vacuum to provide the title compound (2.9 g, 73% yield). Mass spectrum (apci) m/z=468.1 (M+H).

reactant | (S)-3-(2-fluoro-4-(methylsulfonyl)phenylamino)-1-(piperidin-4-yl)pyrrolidin-2-one | 8.44 mmol, 3 g | FC1=C(C=CC(=C1)S(=O)(=O)C)N[C@@H]1C(N(CC1)C1CCNCC1)=O | C16H22FN3O3S
reactant | DIEA | 42.2 mmol, 7.35 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2,5-dichloropyrazine | 16.9 mmol, 2.51 g | ClC1=NC=C(N=C1)Cl | C4H2Cl2N2
reactant | Diethyl ether | 200 mL | C(C)OCC | C4H10O
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | (S)-1-(1-(5-chloropyrazin-2-yl)piperidin-4-yl)-3-(2-fluoro-4-(methylsulfonyl)phenylamino)pyrrolidin-2-one | 2.9 g, 73% yield | ClC=1N=CC(=NC1)N1CCC(CC1)N1C([C@H](CC1)NC1=C(C=C(C=C1)S(=O)(=O)C)F)=O | C20H23ClFN5O3S
